US07700591B2
A solution of (3S)-3-isopropyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentyl acetate (935 mg, 2.34 mmol) was treated with a solution of LiOH H2O (491 mg, 11.7 mmol) in deionized water (5 mL). The resulting reaction mixture was stirred at rt for 40 min, then was diluted with brine and extracted with ether. The ethereal layer was dried over anhydrous MgSO4, filtered, and concentrated to give (3S)-3-isopropyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanol (a mixture of two isomers), which was used as is.

reactant | (3S)-3-isopropyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentyl acetate | 2.34 mmol, 935 mg | C(C)(=O)OC1C[C@](CC1)(C(=O)N1COC2=C(C1)C=C(C=C2)C(F)(F)F)C(C)C | C20H24F3NO4
reactant | LiOH H2O | 11.7 mmol, 491 mg | O[Li].O
solvent | water | 5 mL | O | H2O
solvent | brine | [Cl-].[Na+].O
product | (3S)-3-isopropyl-3-{[6-(trifluoromethyl)-2H-1,3-benzoxazin-3(4H)-yl]carbonyl}cyclopentanol | C(C)(C)[C@]1(CC(CC1)O)C(=O)N1COC2=C(C1)C=C(C=C2)C(F)(F)F | C18H22F3NO3
